US04036977
4-(1-Adamantyloxy)-2-(methylthiomethyl)-aniline
To 6.2 g. (0.088 mole) of chlorine in 240 ml. of CH2Cl2 in a one-liter 3-neck flask cooled to -70° to -73° was added dropwise with stirring a cold (~ -70°) solution of 5.7 g. (0.092 mole) of dimethyl sulfide in 20 ml. of CH2Cl2. The solution was stirred for several minutes, and then a solution of 21.4 g. (0.088 mole) of 4-(1-adamantyloxy)-aniline and 8.9 g. (0.088 mole) of triethylamine in 400 ml. of CH2Cl2 cooled either to -70° or to -40° to -50° was added dropwise rapidly. Then the mixture was either stirred at -70° and gradually allowed to warm to room temperature during four hours and then cooled again to -65° or it was stirred at -70° for 2 hours followed in either case by the addition of 51.8 g. of 25 % sodium methoxide in methanol solution, removal of the cold bath, and stirring at room temperature for 12 to 18 hours.

reactant | chlorine | 0.088 mole | ClCl | Cl2
reactant | dimethyl sulfide | 0.092 mole | CSC | C2H6S
reactant | 4-(1-adamantyloxy)-aniline | 0.088 mole | C12(CC3CC(CC(C1)C3)C2)OC2=CC=C(N)C=C2 | C16H21NO
reactant | triethylamine | 0.088 mole | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(1-Adamantyloxy)-2-(methylthiomethyl)-aniline | C12(CC3CC(CC(C1)C3)C2)OC2=CC(=C(N)C=C2)CSC | C18H25NOS
